US07385066B2
3-Sulfamoyl-benzoic acid tert-butyl ester
Sulfuric acid (conc., 498 μL, 9.06 mmol) was added to a suspension of MgSO4 (4.36 g, 36.22 mmol) in CH2Cl2 (36 mL). The reaction mixture was stirred for 15 minutes, treated with 3-chlorosulfonyl-benzoic acid (Aldrich, 2 g, 9.06 mmol) and 2-methyl-propan-2-ol (anhydrous, 4.33 mL, 45.27 mmol), capped tightly, and stirred overnight at room temperature. The next day, the mixture was cooled to 0° C., treated with 7N NH3 in methanol (Aldrich, 40 mL) dropwise, and stirred for 30 minutes. The solvents were removed in vacuo and the crude was dissolved in ethyl acetate and saturated NaHCO3. The organic layer was washed with saturated NaHCO3, water, and brine, dried over MgSO4, filtered, and concentrated in vacuo to afford the title compound as a white solid (1 g, 42.9% yield). 1H-NMR (CDCl3): δ 8.51-8.53 (m, 1H), 8.20-8.21 (m, 1H), 8.08-8.11 (m, 1H), 7.57-7.62 (m, 1H), 5.09 (bs, 2H), and 1.61 (s, 9H).

reactant | Sulfuric acid | 9.06 mmol, 498 μL | S(O)(O)(=O)=O | H2O4S
reactant | MgSO4 | 36.22 mmol, 4.36 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | 3-chlorosulfonyl-benzoic acid | 9.06 mmol, 2 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | 2-methyl-propan-2-ol | 45.27 mmol, 4.33 mL | CC(C)(C)O | C4H10O
reactant | NH3 | 7N | N | H3N
solvent | CH2Cl2 | 36 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 40 mL | CO | CH4O
product | 3-Sulfamoyl-benzoic acid tert-butyl ester | 1 g, 42.9% yield | C(C)(C)(C)OC(C1=CC(=CC=C1)S(N)(=O)=O)=O | C11H15NO4S
